US03997586
1.1 gm of dl-trans 3,3-dimethyl-2-cyclopropylidenemethyl-1-cyclopropanecarboxylic acid were introduced into 5 cc of benzene and 0.55 cc of thionyl chloride were added over about 15 minutes. Next, the reaction mixture was agitated for 3 hours at room temperature, after which the solvent and the excess thionyl chloride were eliminated by distillation under reduced pressure to obtain 1.2 gm of raw dl-trans 3,3-dimethyl-2-cyclopropylidenemethyl-1-cyclopropanecarboxylic acid chloride. The product was utilized as such for the next step.

reactant | trans 3,3-dimethyl-2-cyclopropylidenemethyl-1-cyclopropanecarboxylic acid | CC1([C@H]([C@@H]1C(=O)O)C=C1CC1)C | C10H14O2
reactant | thionyl chloride | 0.55 cc | S(=O)(Cl)Cl | Cl2OS
solvent | benzene | 5 cc | C1=CC=CC=C1 | C6H6
product | trans 3,3-dimethyl-2-cyclopropylidenemethyl-1-cyclopropanecarboxylic acid chloride | CC1([C@H]([C@@H]1C(=O)Cl)C=C1CC1)C | C10H13ClO
